US04364943
7-[2-Methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid (syn isomer) (1.0 g.) was dissolved in a mixture of dimethylformamide (6 ml.) and acetone (30 ml.) Jones reagent (1.25 ml.), which was prepared from conc. sulfuric acid (0.28 ml.), chromium trioxide (0.33 g.) and water (0.9 ml.), was dropwise added thereto over 2 minutes with stirring and cooling at 0° to 2° C. After stirring for 20 minutes at the same temperature, the reaction mixture was poured into ice-water (50 ml.). After acetone was distilled off, the residue was twice extracted with ethyl acetate (50 ml.). The extracts were washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and the residue was pulverized with diisopropyl ether to give 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}-acetamido]-3-formyl-3-cephem-4-carboxylic acid (syn isomer) [or this compound can be represented as 3-hydroxy-6-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}acetamido]-5a,6-dihydro-3H,7H-azeto[2,1-bfuro[3,4-d][1,3]thiazine-1,7(4H)dione (syn isomer)] (0.56 g.).

reactant | 7-[2-Methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid | 1.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C16H14F3N5O7S2
reactant | sulfuric acid | 0.28 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 0.9 ml | O | H2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | Jones reagent | 1.25 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
catalyst | chromium trioxide | 0.33 g | [O-2].[O-2].[O-2].[Cr+6]
product | 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)-1,3-thiazol-4-yl}-acetamido]-3-formyl-3-cephem-4-carboxylic acid | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C16H12F3N5O7S2
